US07981874B2
N-[2-Amino-5-(2-thienyl)phenyl]-4-[(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)methyl]benzamide.
[2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester (150 mg, 0.31 mmol), 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride (89 mg, 0.37 mmol), and DIEA (107 μL, 0.62 mmol) were combined in DMF (4 mL) and stirred at room temperature for 18 h. The solution was diluted with saturated NaHCO3 and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography of the crude (0-10% MeOH/CH2Cl2) afforded the desired product as a colorless solid. The solid was dissolved in a mixture of CH2Cl2 (4 mL) and TFA (1 mL) and stirred at room temperature for 2 h. The solution was diluted with 1,2-DCE and evaporated. The crude was taken up in EtOAc, washed with saturated NaHCO3 and brine, dried (MgSO4), and evaporated. The residue was triturated with EtOAc and filtered to afford the desired product as a colorless solid 1H NMR (DMSO-d6, 600 MHz) δ 9.69 (s, 1H), 7.94 (d, J=7.6 Hz, 2H), 7.44 (s, 1H), 7.41 (d, J=7.8 Hz, 2H), 7.33 (d, J=5.2 Hz, 1H), 7.27 (d, J=8.0 Hz, 1H), 7.22 (d, J=3.5 Hz, 1H), 7.02 (t, J=4.2 Hz, 1H), 6.79 (d, J=8.2 Hz, 1H), 5.13 (s, 2H), 4.16-4.04 (m, 4H), 3.54 (s, 2H), 2.43-2.37 (m, 2H), 2.34-2.28 (m, 2H), 1.68-1.62 (m, 2H), 1.52 (d, J=17.0 Hz, 3H), 1.42-1.38 (m, 2H). MS: cal'd 512 (MH+), exp 512 (MH+).

reactant | [2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester | 0.31 mmol, 150 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CBr)=O)=O | C23H23BrN2O3S
reactant | 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride | 0.37 mmol, 89 mg | Cl.CP1(OCC2(CO1)CCNCC2)=O
reactant | DIEA | 0.62 mmol, 107 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[2-Amino-5-(2-thienyl)phenyl]-4-[(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)methyl]benzamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CN1CCC2(COP(OC2)(=O)C)CC1)=O | C26H30N3O4PS
